US05801008
(1) Synthesis of 5-amino-1-phenyl-3-phenylthiopyrazole-4-carbonitrile
A mixture comprised of 14.7 g (50 mmol) of bis (phenylthio)methylenepropanedinitrile [see Chem. Ber., 99, 2900 (1966)], 6.5 g (60 mmol) of phenylhydrazine and 80 ml of methanol was heated under reflux for 7 hours. The solvent was removed by distillation, and 100 ml of ethanol was added to the residue to crystallize the residue. The crystals formed were taken out by filtration under suction to obtain 13.7 g (47mmols) of the intended product as colorless, needle-like crystals having a melting point of 172° to 173° C. The yield was 94%.

reactant | bis (phenylthio)methylenepropanedinitrile | 50 mmol, 14.7 g | C1(=CC=CC=C1)SC(SC1=CC=CC=C1)=C(C#N)C#N | C16H10N2S2
reactant | phenylhydrazine | 60 mmol, 6.5 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | methanol | 80 ml | CO | CH4O
product | 5-amino-1-phenyl-3-phenylthiopyrazole-4-carbonitrile | 47mmols, 13.7 g, yield was 94% | NC1=C(C(=NN1C1=CC=CC=C1)SC1=CC=CC=C1)C#N | C16H12N4S
